US07557244B2
a) 2-[4′-Chloro-5-(3-fluoro-5-trifluoromethyl-phenylamino)-3′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester
The title compound was prepared in 28% yield from 2-(4′-chloro-5-trifluoromethanesulfonyloxy-3′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester and 3-fluoro-5-(trifluoromethyl)aniline under the conditions described in Example 37, step (b). Mass spectrum (ES-, m/z): 560, 562 (M−H);

reactant | 2-(4′-chloro-5-trifluoromethanesulfonyloxy-3′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C21H19ClF6O5S
reactant | 3-fluoro-5-(trifluoromethyl)aniline | FC=1C=C(N)C=C(C1)C(F)(F)F | C7H5F4N
product | 2-[4′-Chloro-5-(3-fluoro-5-trifluoromethyl-phenylamino)-3′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester | 28% yield | COC(C(CC(C)C)C=1C=C(C=C(C1)NC1=CC(=CC(=C1)C(F)(F)F)F)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C27H23ClF7NO2
